2181-01-09 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Scrotal swelling, leaky catheter-Urology replaced foley
   -Had IVC filter placed as none on X Ray
   -Went for CT scan to eval for AAA
   -Fam Mtg-No neurosurgery for now
   -Vascular-Nitro to toes, US to eval art/vein
   -Renal-US to eval for cause of renal failure
   -EEG-10 sec L frontal Sz c/w SDH, on therapeutic dilantin, NTD per
   neuro
   -Large RP bleed, source unknown, appears more old than acute-vascular
   notified, but recommended checking repeated HCT
   -Pressures dropped to 80s after nitropaste and oxycodone for pain-wiped
   off nitropaste and checked HCT 26.5 (stable).
 ULTRASOUND - At [**2181-1-8**] 12:37 PM
 TRANSTHORACIC ECHO - At [**2181-1-8**] 02:16 PM
 ULTRASOUND - At [**2181-1-8**] 03:00 PM
   rt leg artetrial cuuff study.
 ULTRASOUND - At [**2181-1-8**] 04:46 PM
   rt leg artetrial cuuff study.
 OR SENT - At [**2181-1-8**] 06:47 PM
 OR RECEIVED - At [**2181-1-8**] 08:10 PM
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2181-1-7**] 04:00 PM
   Ceftriaxone - [**2181-1-8**] 06:47 PM
   Infusions:
   Other ICU medications:
   Dilantin - [**2181-1-8**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-9**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.4
C (97.6
   HR: 98 (86 - 101) bpm
   BP: 104/59(76) {83/53(65) - 142/75(100)} mmHg
   RR: 22 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.5 kg (admission): 69.5 kg
   Height: 65 Inch
    CVP: 7 (2 - 10)mmHg
   Total In:
                                                                    943 mL
   PO:
   TF:
   IVF:
                                                                    943 mL
   Blood products:
   Total out:
                                                                    192 mL
                                                                     15 mL
   Urine:
                                                                    192 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    751 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 431 (431 - 506) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.34/29/139/16/-8
   Ve: 13.8 L/min
   PaO2 / FiO2: 463
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   91 K/uL
   9.1 g/dL
   77 mg/dL
   4.8 mg/dL
   16 mEq/L
   4.3 mEq/L
   78 mg/dL
   110 mEq/L
   140 mEq/L
   26.1 %
   15.1 K/uL
        [image002.jpg]
                             [**2181-1-7**]  02:39 AM
                             [**2181-1-7**]  08:59 AM
                             [**2181-1-7**]  02:00 PM
                             [**2181-1-8**]  02:23 AM
                             [**2181-1-8**]  02:37 AM
                             [**2181-1-8**]  06:20 AM
                             [**2181-1-8**]  02:47 PM
                             [**2181-1-8**]  10:53 PM
                             [**2181-1-9**]  03:42 AM
                             [**2181-1-9**]  03:58 AM
   WBC
   15.1
   15.7
   14.2
   15.1
   Hct
   26.0
   27.1
   25.4
   24.3
   26.6
   26.5
   26.1
   Plt
   88
   83
   76
   91
   Cr
   3.9
   4.1
   4.3
   4.8
   TCO2
   21
   18
   16
   Glucose
   95
   84
   93
   77
   Other labs: PT / PTT / INR:14.8/34.4/1.3, CK / CKMB /
   Troponin-T:784/7/0.15, ALT / AST:32/39, Alk Phos / T Bili:43/0.5,
   Amylase / Lipase:44/13, Differential-Neuts:88.8 %, Lymph:6.7 %,
   Mono:4.3 %, Eos:0.1 %, Fibrinogen:154 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.5 g/dL, LDH:326 IU/L, Ca++:7.4 mg/dL, Mg++:2.3 mg/dL, PO4:5.8
   mg/dL
   Assessment and Plan
 ELECTROLYTE & FLUID DISORDER, OTHER
 SUBDURAL HEMORRHAGE (SDH)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2181-1-5**] 07:00 PM
   Arterial Line - [**2181-1-5**] 07:00 PM
   22 Gauge - [**2181-1-5**] 07:00 PM
   Multi Lumen - [**2181-1-5**] 09:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-01-10 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2181-1-9**]:
   - Hct stable at noon Hct check, 8pm:
   - No neurosurg intervention
   - Ok to start Hep SQ [**Hospital1 7**]
   - Extubation held while patient intermittently seizing
   - Dr. [**Last Name (STitle) 161**] emailed
   - Changed from CTX to Unasyn
   - PhosLo started
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2181-1-7**] 04:00 PM
   Ceftriaxone - [**2181-1-8**] 06:47 PM
   Ampicillin/Sulbactam (Unasyn) - [**2181-1-9**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2181-1-10**] 02:43 AM
   Fentanyl - [**2181-1-10**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-10**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 103 (93 - 112) bpm
   BP: 108/59(75) {83/49(30) - 148/71(98)} mmHg
   RR: 33 (18 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 69.5 kg (admission): 69.5 kg
   Height: 65 Inch
    CVP: 5 (0 - 7)mmHg
   Total In:
                                                                    134 mL
                                                                     35 mL
   PO:
   TF:
   IVF:
                                                                    134 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  1,195 mL
                                                                     83 mL
   Urine:
                                                                    195 mL
                                                                     83 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,061 mL
                                                                    -48 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 399 (118 - 475) mL
   PS : 5 cmH2O
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 74
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.41/29/122/19/-4
   Ve: 13 L/min
   PaO2 / FiO2: 407
   Physical Examination
   General: Intubated, more interactive today though not following
   commands, tachypneic
   HEENT: Sclera anicteric, pinpoit pupils-right dilates to light, but has
   consentual response, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: Scrotal swelling mildly worse today than yesterday, no erythema, no
   leak from foley
   Ext: cool feet bilaterally w/ eschar on R great toe, LLE swelling w/ +2
   edema, not able to palpate pedal pulses; doplerable LLE dp/pt and R
   pulse with poor Doppler signal
   Labs / Radiology
   106 K/uL
   8.4 g/dL
   81 mg/dL
   3.4 mg/dL
   19 mEq/L
   4.0 mEq/L
   50 mg/dL
   106 mEq/L
   138 mEq/L
   24.5 %
   12.8 K/uL
        [image002.jpg]
                             [**2181-1-8**]  06:20 AM
                             [**2181-1-8**]  02:47 PM
                             [**2181-1-8**]  10:53 PM
                             [**2181-1-9**]  03:42 AM
                             [**2181-1-9**]  03:58 AM
                             [**2181-1-9**]  11:40 AM
                             [**2181-1-9**]  01:54 PM
                             [**2181-1-9**]  09:00 PM
                             [**2181-1-10**]  04:30 AM
                             [**2181-1-10**]  04:55 AM
   WBC
   15.1
   16.7
   12.8
   Hct
   24.3
   26.6
   26.5
   26.1
   25.4
   25.9
   24.5
   Plt
   91
   109
   106
   Cr
   4.8
   3.2
   3.4
   TCO2
   16
   18
   19
   Glucose
   77
   79
   81
   Other labs: PT / PTT / INR:16.2/34.2/1.5, CK / CKMB /
   Troponin-T:784/7/0.15, ALT / AST:32/39, Alk Phos / T Bili:43/0.5,
   Amylase / Lipase:44/13, Differential-Neuts:88.8 %, Lymph:6.7 %,
   Mono:4.3 %, Eos:0.1 %, Fibrinogen:154 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:326 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   This is a 85 M w/ pmh of CRI, HTN, bladder cancer, DVT w/ IVC filter
   transferred from OSH w/ SDH, seizures, acute on chronic renal failure,
   hypotension.
   # Altered mental status:  Possible causes include subdural hematoma,
   seizure/post-ictal effect or benzodiazepine effect.  Subdural hematoma
   most likely. Intubated for airway protection.  No neurosurgical
   intervention after family meeting.  Repeat Head CT with minimal change
   [**1-9**].  EEG with frontal sz consistent with SDH
   - continue ETT w/ CPAP-change to 5/5 to see if patient tolerates today,
   plan to extubate in afternoon after attempting diuresis
   - Continue Dilantin, discuss with neuro about adding keppra or other
   second [**Doctor Last Name **]
   - Minimize sedating medication and ativan
   - F/U NS and Neuro recs.
   # Right toe eschar-unable to palpate or Doppler pulses and concern is
   for arterial insufficiency.  Not anticoagulation candidate Prelim
   report on US showed SFA occlusion with reconstitution distal to
   popliteal
   -          Vascular consulted-follow recs
   -          F/U on final report of US
   -          F/U final read on CT-prelim reads + for AAA in throracic and
   infra renal, which are known from previous records
   -          Conitinue
 inch nitropaste to toes as needed
   # Hypotension: Resolved with fluid administration.  No indication of
   sepsis.  HCT stable overnight s/p 2 U PRBC on first night of transfer
   - d/c Ceftriaxone/Vanc and start Unasyn for total of 7 days on Day 5 of
   Abx today.
   - [**Hospital1 7**] hcts w/ goal hct 25
   - f/u blood, urine and sputum cx
   - if spikes consider adding vanc/zosyn back
   # Seizures: likely from SDH.  Seems to be having R-sided eye and hand
   twitching that responds to ativan.  Corrected dilantin level elevated.
   - continue dilantin consider adding second [**Doctor Last Name **] if continues to have
   seizure activity
   - Discuss adding Keppra with Neuro as Sz may be very subtle
   # Large subdural hematoma: Per neurosurg, this is unlikely the cause of
   his altered mental status.   Per neurosurg, CT stable.
   -          repeat head CT
   # DVT: H/o prior DVT. Developed SDH in the setting of heparin ggt.  DVT
   not seen on KUB yesterday, underwent IVC filter placement on [**1-8**]
   -          Pneumoboots
   -          Discuss with neursurg adding heparin SQ
   # Anemia: Hct 25.4 in setting of hemodilution and hematuria-no further
   hematuria overnight after foley replaced by urology
   - [**Hospital1 7**] HCT (transfuse for hct < 25)
   - guiac stools
   - Flush Foley for clots/UOP, consult urology if does not improve
   - Consider EPO with HD
   # Acute on chronic renal failure:  Unclear baseline cr.  No need for
   urgent dialysis today.  Creatinine steadily rising.
   -          appreciate renal recs.
   -          Renal US-f/u on read
   -          HD for today
   -          Holding nephrocaps because cannot be crushed, switch calcium
   acetate to carbonate for ease of crushing
   #. Thrombocytopenia: Drop from 140 to 88 overnight. DDx includes HIT,
   DIC, consumption in DVT/hematuria/Subdural organization.  Hemolysis
   workup negative
   -          FPM Platelet count- transfuse per neurosurgical guidelines
   # FEN: IVF boluses for hypotension, replete electrolytes cautiously,
   will start TF
   # Prophylaxis: R Pneumoboot, discuss heparin SQ with NS
   # Access: R IJ dialysis cath placed at OSH, L IJ placed here on [**1-5**], R
   art line placed at OSH on [**1-5**]
   # Code: Full code
   # Communication: [**Name (NI) 5323**] (son) Cell:  [**Telephone/Fax (1) 5324**]
   # Disposition: ICU
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 ELECTROLYTE & FLUID DISORDER, OTHER
 SUBDURAL HEMORRHAGE (SDH)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:  Holding tube feeds, if unable to extubate, will restart
   tube feeds
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2181-1-5**] 07:00 PM
   Arterial Line - [**2181-1-5**] 07:00 PM
   22 Gauge - [**2181-1-5**] 07:00 PM
   Multi Lumen - [**2181-1-5**] 09:00 PM
   Prophylaxis:
   DVT:  Heparin [**Hospital1 7**]
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2181-01-12 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -No dialysis today, but Renal will pull line tomorrow.  In for IR line
   in AM.
   -Renal HD aware of EPO-initiated protocol at HD
   -Head Ct no change
   -Added keppra-->no further Sz
   - Appears to be more comfortable with Fentanyl IV 50mcg on board
   Allergies:
   Nsaids
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2181-1-11**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2181-1-11**] 10:34 AM
   Dilantin - [**2181-1-11**] 10:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-1-12**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 93 (85 - 107) bpm
   BP: 98/53(69) {90/49(64) - 146/72(98)} mmHg
   RR: 26 (17 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.5 kg (admission): 69.5 kg
   Height: 65 Inch
    CVP: 4 (3 - 9)mmHg
   Total In:
                                                                    996 mL
                                                                     78 mL
   PO:
   TF:
                                                                    456 mL
                                                                     45 mL
   IVF:
                                                                    420 mL
                                                                     34 mL
   Blood products:
   Total out:
                                                                    740 mL
                                                                    135 mL
   Urine:
                                                                    740 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    256 mL
                                                                    -57 mL
   Respiratory support
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General: Awake, vocalizing less today, unable to appreciate content
   HEENT: Sclera anicteric, pinpoint pupils-right dilates to light, but
   has consentual response
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: Scrotal edema, no erythema, no leak from foley
   Ext: cool feet bilaterally w/ eschar on R great toe, LLE swelling w/ +2
   edema, not able to palpate pedal pulses
   Labs / Radiology
   140 K/uL
   8.9 g/dL
   139 mg/dL
   4.0 mg/dL
   21 mEq/L
   3.7 mEq/L
   65 mg/dL
   107 mEq/L
   140 mEq/L
   25.5 %
   12.2 K/uL
        [image002.jpg]
                             [**2181-1-9**]  03:42 AM
                             [**2181-1-9**]  03:58 AM
                             [**2181-1-9**]  11:40 AM
                             [**2181-1-9**]  01:54 PM
                             [**2181-1-9**]  09:00 PM
                             [**2181-1-10**]  04:30 AM
                             [**2181-1-10**]  04:55 AM
                             [**2181-1-10**]  12:57 PM
                             [**2181-1-11**]  03:46 AM
                             [**2181-1-12**]  04:11 AM
   WBC
   15.1
   16.7
   12.8
   12.2
   12.2
   Hct
   26.1
   25.4
   25.9
   24.5
   24.0
   25.5
   Plt
   91
   109
   106
   115
   140
   Cr
   4.8
   3.2
   3.4
   4.0
   4.0
   TCO2
   16
   18
   19
   19
   Glucose
   77
   79
   81
   103
   139
   Other labs: PT / PTT / INR:15.3/33.1/1.4, CK / CKMB /
   Troponin-T:784/7/0.15, ALT / AST:32/39, Alk Phos / T Bili:43/0.5,
   Amylase / Lipase:44/13, Differential-Neuts:88.8 %, Lymph:6.7 %,
   Mono:4.3 %, Eos:0.1 %, Fibrinogen:154 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:326 IU/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:4.3
   mg/dL
   Dilantin: 9.8 (uncorrected)
   Imaging: Head CT [**1-11**]: Stable left supratentorial subdural hematoma
   with stable mass effect, but no evidence of herniation. No new acute
   intracranial findings. MRI is more sensitive for acute ischemia.
   Microbiology: No New Culture Data
   Assessment and Plan
   This is a 85 M w/ pmh of CRI, HTN, bladder cancer, DVT w/ IVC filter
   transferred from OSH w/ SDH, seizures, acute on chronic renal failure,
   hypotension.
   # Altered mental status:  Continues to have seizures, concern for
   worsening SDH.
   - Minimize sedating medication and ativan
   - F/U NS and Neuro recs.
   - Treat underlying conditions
   # Seizures: likely from SDH.  No Seizure activity overnight.
   - Dilantin 100mg IV Q8 with level in AM
   - Keppra
   - Follow Neuro, NSurg Recs
   # Acute on chronic renal failure:  Unclear baseline cr.  Creatinine
   stabily elevated.
   -          F/U renal recs on HD
   -          Line: Per renal, reassess need for tunnel line this AM,
   current line sterile & stabile.  IR on call
   -          HD for today
   -          Holding nephrocaps because cannot be crushed
   # Pneumonia: Based on sputum gram stain, clearing with extubation.
   -          Unasyn course completed [**1-11**]
   # Large subdural hematoma: Per neurosurg, this is unlikely the cause of
   his altered mental status.   Per neurosurg, CT stable.
   -          NSurg recs, no acute intervention
   -          Repeat Head CT today
   # Right toe eschar-unable to palpate, + Doppler pulses and concern is
   for arterial insufficiency.  Not anticoagulation candidate Prelim
   report on US showed SFA occlusion with reconstitution distal to
   popliteal
   -          Vascular consulted-follow recs
   -          F/U on final report of US
   -          Continue
 inch nitropaste to toes as needed
   -          Add Fentanyl patch for pain control
   # DVT: H/o prior DVT. Developed SDH in the setting of heparin gtt.
   -          Pneumoboots
   -          Heparin SQ
   -          IVC Filter in place
   # Anemia: Hct 25.5 in setting of hemodilution and hematuria-no further
   hematuria overnight after foley replaced by urology
   -          Minizmize blood draws
   -          Transfuse for dropping Hct
   - guiac stools
   - Flush Foley for clots/UOP, consult urology if does not improve
   - EPO with HD
   #. Thrombocytopenia: Resolved.
   # FEN: IVF boluses for hypotension, replete electrolytes cautiously,
   will start TF
   # Prophylaxis: R Pneumoboot, discuss heparin SQ with NS
   # Access: R IJ dialysis cath placed at OSH, Establish PIV, pull L IJ
   placed here on [**1-5**] & R art line placed at OSH on [**1-5**]
   # Code: Full code
   # Communication: [**Name (NI) 5323**] (son) Cell:  [**Telephone/Fax (1) 5324**]
   # Disposition: Call out to Dow or HMED
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2181-1-5**] 07:00 PM
   Arterial Line - [**2181-1-5**] 07:00 PM
   Multi Lumen - [**2181-1-5**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU